### PR TITLE
[Merged by Bors] - feat(RingTheory.MvPowerSeries.Topology): define the product topology on mv power series

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
Let `R` be with `Semiring R` and `TopologicalSpace R`
In this file we define the topology on `MvPowerSeries σ R`
that corresponds to the simple convergence on its coefficients,
aka the product topology.
It is the coarsest topology for which all coefficients maps are continuous.

When `R` has `UniformSpace R`, we define the corresponding uniform structure.

When the type of coefficients has the discrete topology,
it corresponds to the topology defined by [bourbaki1981], chapter 4, §4, n°2

Coauthored with María Inés de Frutos Fernández @mariainesdff 

---

- [x] depends on: #14865 
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/MvPowerSeries/Topology.lean [hunk 1]
```diff
@@ -0,0 +1,311 @@
...
+import Mathlib.RingTheory.Nilpotent.Defs
+import Mathlib.RingTheory.MvPowerSeries.Basic
+import Mathlib.Topology.Algebra.InfiniteSum.Constructions
+import Mathlib.Topology.Algebra.Ring.Basic
+import Mathlib.Topology.Algebra.UniformGroup
+import Mathlib.Topology.UniformSpace.Pi
+
+/-! # Topology on power series
+
+Let `α` be with Semiring α` and `TopologicalSpace α`
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/Topology.lean:16]: Would you mind renaming alpha to something that sounds a bit more like a topological ring? Like `R` or `A`?

File: Mathlib/RingTheory/MvPowerSeries/Topology.lean [hunk 2]
```diff
@@ -0,0 +1,311 @@
...
+
+open Function
+
+variable (σ : Type _) (α : Type _)
+
+section Topological
+
+variable [TopologicalSpace α]
+
+namespace WithPiTopology
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/Topology.lean:74]: Do you need the `section`, or is the `namespace` enough?
```suggestion
namespace WithPiTopology

variable [TopologicalSpace α]
```

File: Mathlib/RingTheory/MvPowerSeries/Topology.lean [hunk 3]
```diff
@@ -0,0 +1,311 @@
...
+      IsOpen.preimage (continuous_component σ α d) hv, hx, hy,
+      Disjoint.preimage _ huv⟩
+
+end WithPiTopology
+
+end Topological
+
+section Uniform
+
+namespace WithPiUniformity
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/Topology.lean:140]:
```suggestion
end WithPiTopology

namespace WithPiUniformity
```

File: Mathlib/RingTheory/MvPowerSeries/Topology.lean [hunk 4]
```diff
@@ -0,0 +1,311 @@
...
+    continuous_mul := continuous_pi fun _ => continuous_finset_sum _ fun i _ => Continuous.comp
+      continuous_mul (Continuous.prod_mk (Continuous.fst' (continuous_component σ α i.fst))
+        (Continuous.snd' (continuous_component σ α i.snd)))
+    continuous_neg := (@uniformContinuous_neg _ _ _ (uniformAddGroup σ α)).continuous
+    }
+
+end WithPiUniformity
+
+end Uniform
+
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/Topology.lean:196]:
```suggestion
```

File: Mathlib/RingTheory/MvPowerSeries/Topology.lean [hunk 5]
```diff
@@ -0,0 +1,311 @@
...
+section
+
+variable {σ α} [DecidableEq σ]
+
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/Topology.lean:200]:
```suggestion
```

File: Mathlib/RingTheory/MvPowerSeries/Topology.lean (hunk 1 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Topology.lean:16]: No I don't. (Actually, I had get acquainted to these greek letters in mathlib3, and this comes out former lean3 code…)

File: Mathlib/RingTheory/MvPowerSeries/Topology.lean (hunk 2 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Topology.lean:74]: namespace should be enough (they keep variables within the namespace… end, but that wasn't so clear a few months ago)

File: Mathlib/RingTheory/MvPowerSeries/Topology.lean (hunk 4 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Topology.lean:196]: Here I want to keep some variables and the `open…`

**Comment by AntoineChambert-Loir** [comment]
A question to @jcommelin : shouldn't we name this file `PiTopology`?

File: Mathlib/RingTheory/MvPowerSeries/Topology.lean [hunk 6]
```diff
@@ -0,0 +1,293 @@
...
+theorem Finset.prod_one_add {ι R : Type _} [DecidableEq ι] [CommRing R] {f : ι → R} (s : Finset ι) :
+    (s.prod fun i => 1 + f i) = s.powerset.sum fun t => t.prod f := by
+  simp_rw [add_comm, Finset.prod_add]
+  congr
+  ext t
+  convert mul_one (Finset.prod t fun a => f a)
+  exact Finset.prod_eq_one (fun i _ => rfl)
+
+theorem MvPowerSeries.coeff_eq_apply {σ R : Type _} [Semiring R] (f : MvPowerSeries σ R)
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/Topology.lean:60]: Hmm, where do we teach Lean to treat `MvPowerSeries` as functions that send an index to a coefficient? Because I think that is probably confusing, and I would prefer if we avoid that spelling.

What do you think?

**Review by jcommelin — COMMENTED** [review]
Renaming the file to `PiTopology` sounds good to me.

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 7]
```diff
@@ -19,6 +21,34 @@ A formal power series is to a polynomial like an infinite sum is to a finite sum
 
 We provide the natural inclusion from multivariate polynomials to multivariate formal power series.
 
+## Main definitions
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean:24]: I'm happy with the changes to this file. If you split it into a separate PR, then it could be merged already.

File: Mathlib/RingTheory/MvPowerSeries/Topology.lean [hunk 8]
```diff
@@ -0,0 +1,293 @@
...
+- If the topology of `R` is T2, then so is that of `MvPowerSeries σ R``
+
+- If `R` is a `uniformAddGroup`, then so is `MvPowerSeries σ R``
+
+- If `R` is complete, then so is `MvPowerSeries σ R`
+
+-/
+
+
+theorem Finset.prod_one_add {ι R : Type _} [DecidableEq ι] [CommRing R] {f : ι → R} (s : Finset ι) :
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/Topology.lean:52]: Please move this to a better home.

If you write `#find_home! Finset.prod_one_add` below it, then Lean will give you some candidates. (Hopefully good ones.)

File: Mathlib/RingTheory/MvPowerSeries/Topology.lean [hunk 9]
```diff
@@ -0,0 +1,293 @@
...
+variable [TopologicalSpace R]
+
+/-- The pointwise topology on MvPowerSeries -/
+scoped instance topologicalSpace : TopologicalSpace (MvPowerSeries σ R) :=
+  Pi.topologicalSpace
+
+/-- Components are continuous -/
+theorem continuous_component :
+    ∀ d : σ →₀ ℕ, Continuous fun a : MvPowerSeries σ R => a d :=
+  continuous_pi_iff.mp continuous_id
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/Topology.lean:81]: This looks like it uses the "evil" coercion to function.

File: Mathlib/RingTheory/MvPowerSeries/Topology.lean (hunk 6 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Topology.lean:60]: The problem is that `MvPowerSeries` are intrinsically functions, and sometimes lean makes conversions in that direction. So I agree that we should have this equality in the other direction.

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean (hunk 7 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Basic.lean:24]: In fact, it was already merged a few days ago, I wonder how the `merge master` did spot a difference here.

File: Mathlib/RingTheory/MvPowerSeries/Topology.lean (hunk 6 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Topology.lean]: I changed the direction and the name to `apply_eq_coeff` and will investigate why it is at all necessary.

File: Mathlib/RingTheory/MvPowerSeries/Topology.lean (hunk 9 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Topology.lean]: Indeed. BUT: there is a nice feature (I believe) of `MvPowerSeries` that its type does not impose anything on the coefficients. On the other hand, `MvPowerSeries.coeff` expects a `Semiring`.
Maybe the best would be to delete `continuous_component` for the moment.

File: Mathlib/RingTheory/MvPowerSeries/Topology.lean (hunk 6 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Topology.lean]: OK, now I understand: when I define the topology as being `Pi.topologicalSpace`, it automatically refers to the power series as functions. This gives access to everything that `Pi.topologicalSpace` furnishes, in particular lemmas such as `continuous_pi_iff`. But then we need to rewrite the application as a coeff.

I am not sure it is useful to duplicate the `Pi.topologicalSpace` API here, replacing all such applications with `MvPowerSeries.coeff`.

File: Mathlib/RingTheory/MvPowerSeries/Topology.lean (hunk 9 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Topology.lean]: This is what I did.

File: Mathlib/RingTheory/MvPowerSeries/PiTopology.lean [hunk 10]
```diff
@@ -0,0 +1,292 @@
...
+    obtain ⟨d, h⟩ := Function.ne_iff.mp h
+    obtain ⟨u, v, ⟨hu, hv, hx, hy, huv⟩⟩ := t2_separation h
+    exact ⟨(fun x => x d) ⁻¹' u, (fun x => x d) ⁻¹' v,
+      IsOpen.preimage (continuous_coeff R d) hu,
+      IsOpen.preimage (continuous_coeff R d) hv, hx, hy,
+      Disjoint.preimage _ huv⟩
+
+end WithPiTopology
+
+namespace WithPiUniformity
```
Comment (urkud) [inline Mathlib/RingTheory/MvPowerSeries/PiTopology.lean:125]: I think that both instances should live in the same scope.

File: Mathlib/RingTheory/MvPowerSeries/PiTopology.lean [hunk 11]
```diff
@@ -0,0 +1,292 @@
...
+theorem instTopologicalRing (R : Type*) [TopologicalSpace R] [Ring R] [TopologicalRing R] :
+    TopologicalRing (MvPowerSeries σ R) :=
+  { instTopologicalSemiring σ R with
+    continuous_neg := continuous_pi fun d ↦ Continuous.comp continuous_neg
+      (continuous_coeff R d) }
+
+/-- MvPowerSeries on a T2Space form a T2Space -/
+@[scoped instance]
+theorem instT2Space [T2Space R] : T2Space (MvPowerSeries σ R) where
+  t2 x y h := by
```
[the remark this answers is not in the document]
Comment (urkud) [reply Mathlib/RingTheory/MvPowerSeries/PiTopology.lean:115]: Please reuse instances about general Pi types as much as possible. If we don't have some instance, then we should add it instead of proving it in a special case.

[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/PiTopology.lean:115]: We do. Thanks for noting.

File: Mathlib/RingTheory/MvPowerSeries/PiTopology.lean (hunk 10 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/PiTopology.lean]: Everything is now in MvPowerSeries.WithPiTopology

Same for PowerSeries.WithPiTopology

File: Mathlib/RingTheory/MvPowerSeries/PiTopology.lean [hunk 12]
```diff
@@ -0,0 +1,259 @@
...
+
+## Instances
+
+- If `R` is a topological (semi)ring, then so is `MvPowerSeries σ R`.
+
+- If the topology of `R` is T0 or T2, then so is that of `MvPowerSeries σ R`.
+
+- If `R` is a `UniformAddGroup`, then so is `MvPowerSeries σ R`.
+
+- If `R` is complete, then so is `MvPowerSeries σ R`.
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/PiTopology.lean:50]:
```suggestion
- If `R` is a topological (semi)ring, then so is `MvPowerSeries σ R`.
- If the topology of `R` is T0 or T2, then so is that of `MvPowerSeries σ R`.
- If `R` is a `UniformAddGroup`, then so is `MvPowerSeries σ R`.
- If `R` is complete, then so is `MvPowerSeries σ R`.
```

File: Mathlib/RingTheory/PowerSeries/PiTopology.lean [hunk 13]
```diff
@@ -0,0 +1,210 @@
...
+
+## Instances
+
+- If `R` is a topological (semi)ring, then so is `PowerSeries σ R`.
+
+- If the topology of `R` is T0 or T2, then so is that of `PowerSeries σ R`.
+
+- If `R` is a `UniformAddGroup`, then so is `PowerSeries σ R`.
+
+- If `R` is complete, then so is `PowerSeries σ R`.
```
Comment (jcommelin) [inline Mathlib/RingTheory/PowerSeries/PiTopology.lean:47]:
```suggestion
- If `R` is a topological (semi)ring, then so is `PowerSeries σ R`.
- If the topology of `R` is T0 or T2, then so is that of `PowerSeries σ R`.
- If `R` is a `UniformAddGroup`, then so is `PowerSeries σ R`.
- If `R` is complete, then so is `PowerSeries σ R`.
```

File: Mathlib/RingTheory/MvPowerSeries/PiTopology.lean [hunk 14]
```diff
@@ -0,0 +1,259 @@
...
+  intro d
+  change ContinuousAt (fun y => coeff R d ((C σ R) y)) 0
+  by_cases hd : d = 0
+  · convert continuousAt_id
+    rw [hd, coeff_zero_C, id_eq]
+  · convert continuousAt_const
+    rw [coeff_C, if_neg hd]
+
+theorem variables_tendsto_zero [Semiring R] :
+    Filter.Tendsto (fun s : σ => (X s : MvPowerSeries σ R)) Filter.cofinite (nhds 0) := by
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/PiTopology.lean:140]: This can also be written as
```suggestion
    Filter.Tendsto (X · : σ → MvPowerSeries σ R) Filter.cofinite (nhds 0) := by
```

File: Mathlib/RingTheory/MvPowerSeries/PiTopology.lean [hunk 15]
```diff
@@ -0,0 +1,259 @@
...
+  · convert Set.finite_empty
+    rw [Set.eq_empty_iff_forall_not_mem]
+    intro x
+    rw [Set.mem_preimage, Set.not_mem_compl_iff]
+    convert mem_of_mem_nhds hs using 1
+    rw [apply_eq_coeff (X x) d, coeff_X, if_neg]
+    rfl
+    · intro h'
+      apply h
+      exact ⟨x, h'⟩
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/PiTopology.lean:166]:
```suggestion
  rw [tendsto_pi_nhds]
  simp_rw [apply_eq_coeff]
  intro d s hs
  replace hs : 0 ∈ s := by simpa only [map_zero] using mem_of_mem_nhds hs
  simp_rw [Filter.mem_map, Filter.mem_cofinite, ← Set.preimage_compl, coeff_X]
  by_cases h : ∃ i, d = Finsupp.single i 1
  · obtain ⟨i, rfl⟩ := h
    apply (Set.finite_singleton i).subset
    intro x
    by_cases hx : x = i <;>
      simp [Finsupp.single_eq_single_iff, Ne.symm, hx, hs]
  · convert Set.finite_empty
    rw [Set.eq_empty_iff_forall_not_mem]
    intro x
    rwa [Set.mem_preimage, Set.not_mem_compl_iff, if_neg]
    tauto
```

File: Mathlib/RingTheory/MvPowerSeries/PiTopology.lean [hunk 16]
```diff
@@ -0,0 +1,259 @@
...
+
+theorem tendsto_pow_zero_of_constantCoeff_nilpotent [CommSemiring R]
+    {f} (hf : IsNilpotent (constantCoeff σ R f)) :
+    Filter.Tendsto (fun n : ℕ => f ^ n) Filter.atTop (nhds 0) := by
+  classical
+  obtain ⟨m, hm⟩ := hf
+  simp_rw [tendsto_iff_coeff_tendsto, coeff_zero]
+  exact fun d =>  tendsto_atTop_of_eventually_const fun n hn =>
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/PiTopology.lean:174]:
```suggestion
  exact fun d ↦ tendsto_atTop_of_eventually_const fun n hn ↦
```

File: Mathlib/RingTheory/MvPowerSeries/PiTopology.lean [hunk 17]
```diff
@@ -0,0 +1,259 @@
...
+N. Bourbaki, *Algebra II*, [bourbaki1981] (chap. 4, §4, n°2, corollaire de la prop. 3) -/
+theorem tendsto_pow_of_constantCoeff_nilpotent_iff [CommRing R] [DiscreteTopology R] (f) :
+    Filter.Tendsto (fun n : ℕ => f ^ n) Filter.atTop (nhds 0) ↔
+      IsNilpotent (constantCoeff σ R f) := by
+  refine ⟨?_, tendsto_pow_zero_of_constantCoeff_nilpotent⟩
+  intro h
+  suffices Filter.Tendsto (fun n : ℕ => constantCoeff σ R (f ^ n)) Filter.atTop (nhds 0) by
+    simp only [Filter.tendsto_def] at this
+    specialize this {0} _
+    suffices  ∀ x : R, {x} ∈ nhds x by exact this 0
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/PiTopology.lean:194]:
```suggestion
    suffices ∀ x : R, {x} ∈ nhds x by exact this 0
```

File: Mathlib/RingTheory/MvPowerSeries/PiTopology.lean [hunk 18]
```diff
@@ -0,0 +1,246 @@
...
+- If the topology of `R` is T0 or T2, then so is that of `MvPowerSeries σ R`.
+- If `R` is a `UniformAddGroup`, then so is `MvPowerSeries σ R`.
+- If `R` is complete, then so is `MvPowerSeries σ R`.
+
+-/
+
+
+theorem MvPowerSeries.apply_eq_coeff {σ R : Type _} [Semiring R] (f : MvPowerSeries σ R)
+    (d : σ →₀ ℕ) : f d = MvPowerSeries.coeff R d f :=
+  rfl
```
Comment (loefflerd) [inline Mathlib/RingTheory/MvPowerSeries/PiTopology.lean:54]: Should this go elsewhere?

File: Mathlib/RingTheory/MvPowerSeries/PiTopology.lean [hunk 19]
```diff
@@ -0,0 +1,246 @@
...
+/-- The semiring topology on MvPowerSeries of a topological semiring -/
+@[scoped instance]
+theorem instTopologicalSemiring [Semiring R] [TopologicalSemiring R] :
+    TopologicalSemiring (MvPowerSeries σ R) where
+    continuous_add := continuous_pi fun d => Continuous.comp continuous_add
+      (Continuous.prod_mk (Continuous.fst' (continuous_coeff R d))
+        (Continuous.snd' (continuous_coeff R d)))
+    continuous_mul := continuous_pi fun _ => continuous_finset_sum _ (fun i _ => Continuous.comp
+      continuous_mul (Continuous.prod_mk (Continuous.fst' (continuous_coeff R i.fst))
+        (Continuous.snd' (continuous_coeff R i.snd))))
```
Comment (loefflerd) [inline Mathlib/RingTheory/MvPowerSeries/PiTopology.lean:110]: This can probably be shortened using dot-notation

File: Mathlib/RingTheory/MvPowerSeries/PiTopology.lean [hunk 20]
```diff
@@ -0,0 +1,246 @@
...
+@[scoped instance]
+theorem instTopologicalRing (R : Type*) [TopologicalSpace R] [Ring R] [TopologicalRing R] :
+    TopologicalRing (MvPowerSeries σ R) :=
+  { instTopologicalSemiring σ R with
+    continuous_neg := continuous_pi fun d ↦ Continuous.comp continuous_neg
+      (continuous_coeff R d) }
+
+variable {σ R}
+
+theorem continuous_C [Ring R] [TopologicalRing R] :
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPowerSeries/PiTopology.lean:122]:
```suggestion
@[fun_prop]
theorem continuous_C [Ring R] [TopologicalRing R] :
```

**Review by YaelDillies — COMMENTED** [review]
Good idea to have both files in the same PR. I get to write twice as few comments 😁

File: Mathlib/RingTheory/MvPowerSeries/PiTopology.lean (hunk 18 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/PiTopology.lean:54]: Let me move it to Basic.

File: Mathlib/RingTheory/MvPowerSeries/PiTopology.lean [hunk 21]
```diff
@@ -0,0 +1,243 @@
...
+  · obtain ⟨i, rfl⟩ := h
+    apply (Set.finite_singleton i).subset
+    intro x
+    by_cases hx : x = i <;>
+      simp [Finsupp.single_eq_single_iff, Ne.symm, hx, hs]
+  · convert Set.finite_empty
+    rw [Set.eq_empty_iff_forall_not_mem]
+    intro x
+    rwa [Set.mem_preimage, Set.not_mem_compl_iff, if_neg]
+    tauto
```
Comment (loefflerd) [inline Mathlib/RingTheory/MvPowerSeries/PiTopology.lean:150]: Here is a shortened version:
```
theorem variables_tendsto_zero [Semiring R] :
    Filter.Tendsto (X · : σ → MvPowerSeries σ R) Filter.cofinite (nhds 0) := by
  classical
  simp only [tendsto_iff_coeff_tendsto, MvPowerSeries.apply_eq_coeff, coeff_X, coeff_zero]
  refine fun d ↦ tendsto_nhds_of_eventually_eq ?_
  by_cases h : ∃ i, d = Finsupp.single i 1
  · obtain ⟨i, hi⟩ := h
    filter_upwards [Filter.eventually_cofinite_ne i] with j hj
    simp only [hi, Finsupp.single_eq_single_iff, and_false, or_false, and_true, hj.symm, if_false]
  · simpa only [ite_eq_right_iff] using 
      Filter.eventually_of_forall fun x h' ↦ (not_exists.mp h x h').elim
```

File: Mathlib/RingTheory/MvPowerSeries/PiTopology.lean [hunk 22]
```diff
@@ -0,0 +1,243 @@
...
+- If `R` is a topological (semi)ring, then so is `MvPowerSeries σ R`.
+- If the topology of `R` is T0 or T2, then so is that of `MvPowerSeries σ R`.
+- If `R` is a `UniformAddGroup`, then so is `MvPowerSeries σ R`.
+- If `R` is complete, then so is `MvPowerSeries σ R`.
+
+-/
+
+namespace MvPowerSeries
+
+open Function
```
Comment (loefflerd) [inline Mathlib/RingTheory/MvPowerSeries/PiTopology.lean:53]: Maybe open `Filter` as well, you have a lot of `Filter.xxx` in the file

File: Mathlib/RingTheory/MvPowerSeries/PiTopology.lean [hunk 23]
```diff
@@ -0,0 +1,243 @@
...
+    intro x
+    by_cases hx : x = i <;>
+      simp [Finsupp.single_eq_single_iff, Ne.symm, hx, hs]
+  · convert Set.finite_empty
+    rw [Set.eq_empty_iff_forall_not_mem]
+    intro x
+    rwa [Set.mem_preimage, Set.not_mem_compl_iff, if_neg]
+    tauto
+
+theorem tendsto_pow_zero_of_constantCoeff_nilpotent [CommSemiring R]
```
Comment (loefflerd) [inline Mathlib/RingTheory/MvPowerSeries/PiTopology.lean:152]: Can you show the stronger statement that if `(constantCoeff σ R f) ^ n` tends to 0, i.e. it is _topologically_ nilpotent, then the same is true of `f`?

File: Mathlib/RingTheory/MvPowerSeries/PiTopology.lean [hunk 24]
```diff
@@ -0,0 +1,243 @@
...
+variable [Semiring R]
+
+/-- A power series is the sum (in the sense of summable families) of its monomials -/
+theorem hasSum_of_monomials_self (f : MvPowerSeries σ R) :
+    HasSum (fun d : σ →₀ ℕ => monomial R d (coeff R d f)) f := by
+  rw [Pi.hasSum]
+  intro d
+  convert hasSum_single d ?_ using 1
+  exact (coeff_monomial_same d _).symm
+  exact fun d' h ↦ coeff_monomial_ne (Ne.symm h) _
```
Comment (loefflerd) [inline Mathlib/RingTheory/MvPowerSeries/PiTopology.lean:200]: Please use focussing dots (or restructure the proof to avoid having multiple goals)

File: Mathlib/RingTheory/PowerSeries/PiTopology.lean [hunk 25]
```diff
@@ -0,0 +1,207 @@
...
+It is the coarsest topology for which all coefficients maps are continuous.
+
+When `R` has `UniformSpace R`, we define the corresponding uniform structure.
+
+This topology can be included by writing `open scoped PowerSeries.WithPiTopology`.
+
+When the type of coefficients has the discrete topology,
+it corresponds to the topology defined by [bourbaki1981], chapter 4, §4, n°2.
+
+It is *not* the adic topology in general.
```
Comment (loefflerd) [inline Mathlib/RingTheory/PowerSeries/PiTopology.lean:25]: I'm surprised by this, I thought the topologies were the same in the one-variable case (assuming discrete topology on the coefficients). What's the counterexample?

**Review by loefflerd — COMMENTED** [review]
Here are some more comments.

File: Mathlib/RingTheory/MvPowerSeries/PiTopology.lean (hunk 19 above)
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/PiTopology.lean:106]: Sorry, I don't understand what this would mean.

File: Mathlib/RingTheory/PowerSeries/PiTopology.lean (hunk 25 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/PowerSeries/PiTopology.lean:25]: The comment is an unfortunate copy-paste from the multivariate case.

**Comment by AntoineChambert-Loir** [comment]
bot fix style

File: Mathlib/RingTheory/MvPowerSeries/PiTopology.lean [hunk 26]
```diff
@@ -0,0 +1,227 @@
...
+theorem instT2Space [T2Space R] : T2Space (MvPowerSeries σ R) := Pi.t2Space
+
+variable (R) in
+/-- `MvPowerSeries.coeff` is continuous. -/
+@[fun_prop]
+theorem continuous_coeff [Semiring R] (d : σ →₀ ℕ) : Continuous (MvPowerSeries.coeff R d) :=
+  continuous_pi_iff.mp continuous_id d
+
+variable (R) in
+/-- constant_coeff is continuous -/
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPowerSeries/PiTopology.lean:85]:
```suggestion
/-- `MvPolynomial.constantCoeff` is continuous -/
```

File: Mathlib/RingTheory/MvPowerSeries/PiTopology.lean [hunk 27]
```diff
@@ -0,0 +1,227 @@
...
+variable {σ R : Type*}
+
+namespace WithPiTopology
+
+section Topology
+
+variable [TopologicalSpace R]
+
+variable (R) in
+/-- The pointwise topology on MvPowerSeries -/
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPowerSeries/PiTopology.lean:66]: Can you either use `` around Lean declarations, or use their informal name?
```suggestion
/-- The pointwise topology on `MvPowerSeries` -/
```
Here and everywhere else

File: Mathlib/RingTheory/PowerSeries/PiTopology.lean [hunk 28]
```diff
@@ -0,0 +1,205 @@
+/-
+Copyright (c) 2024 Antoine Chambert-Loir, María Inés de Frutos-Fernández. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Antoine Chambert-Loir, María Inés de Frutos-Fernández
+-/
+
+
+import Mathlib.RingTheory.MvPowerSeries.PiTopology
```
Comment (YaelDillies) [inline Mathlib/RingTheory/PowerSeries/PiTopology.lean:8]:
```suggestion
import Mathlib.RingTheory.MvPowerSeries.PiTopology
```

**Review by YaelDillies — COMMENTED** [review]
A few cosmetic comments

**Comment by loefflerd** [comment]
Relevant Zulip discussion [here](https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/Topology.20on.20power.20series)

BTW, this PR won't show up in the review queue because of an utterly trivial linter failure, so:

bot fix style

**Comment by loefflerd** [comment]
Oh, looks like something more serious is wrong, not just lint. Antoine, can you please fix this?

File: Mathlib/RingTheory/MvPowerSeries/PiTopology.lean [hunk 29]
```diff
@@ -0,0 +1,228 @@
...
+When the type of coefficients has the discrete topology,
+it corresponds to the topology defined by [bourbaki1981], chapter 4, §4, n°2.
+
+It is *not* the adic topology in general.
+
+## Main results
+
+- `MvPowerSeries.WithPiTopology.tendsto_pow_zero_of_constantCoeff_nilpotent`,
+`MvPowerSeries.WithPiTopology.tendsto_pow_zero_of_constantCoeff_zero`: if the constant coefficient
+of `f` is nilpotent, or vanishes, then the powers of `f` converge to zero.
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPowerSeries/PiTopology.lean:34]: As indicated by the syntax highlighting in vscode, you are missing the indentation here
```suggestion
  `MvPowerSeries.WithPiTopology.tendsto_pow_zero_of_constantCoeff_zero`: if the constant coefficient
  of `f` is nilpotent, or vanishes, then the powers of `f` converge to zero.
```
Same below

File: Mathlib/RingTheory/MvPowerSeries/PiTopology.lean [hunk 30]
```diff
@@ -0,0 +1,228 @@
...
+
+- `MvPowerSeries.WithPiTopology.tendsto_pow_of_constantCoeff_nilpotent_iff` : the powers of `f`
+converge to zero iff the constant coefficient of `f` is nilpotent.
+
+- `MvPowerSeries.WithPiTopology.hasSum_of_monomials_self` : viewed as an infinite sum, a power
+series coverges to itself.
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPowerSeries/PiTopology.lean:40]:
```suggestion
series converges to itself.
```

File: Mathlib/RingTheory/PowerSeries/PiTopology.lean [hunk 31]
```diff
@@ -0,0 +1,204 @@
...
+
+- `PowerSeries.WithPiTopology.tendsto_pow_zero_of_constantCoeff_nilpotent`,
+`PowerSeries.WithPiTopology.tendsto_pow_zero_of_constantCoeff_zero`: if the constant coefficient
+of `f` is nilpotent, or vanishes, then the powers of `f` converge to zero.
+
+- `PowerSeries.WithPiTopology.tendsto_pow_zero_of_constantCoeff_nilpotent_iff` : the powers of `f`
+converge to zero iff the constant coefficient of `f` is nilpotent.
+
+- `PowerSeries.WithPiTopology.hasSum_of_monomials_self` : viewed as an infinite sum, a power
+series coverges to itself.
```
Comment (loefflerd) [inline Mathlib/RingTheory/PowerSeries/PiTopology.lean:34]: Please fix the indenting here as well.

**Review by loefflerd — COMMENTED** [review]
I have left a few minor formatting / docstring comments (in addition to the ones from Yaël). I think we should merge this once those are sorted out; there are certainly still things one might want to add or improve, but that's always the case with any PR of this size, let's not "let the perfect be the enemy of the good" as the saying goes.

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

**Comment by AntoineChambert-Loir** [comment]
bors r+

Le 2 décembre 2024 10:49:32 GMT+01:00, "mathlib-bors[bot]" ***@***.***> a écrit :

**Comment by AntoineChambert-Loir** [comment]
bors cancel
